US04237138
4-Amino-2-chloro-6,7-dimethoxyquinazoline (3.6 g.), 4-(2-methoxy-n-propoxy)piperidine (3.0 g.) and triethylamine (1.5 g.) in n-butanol were heated under reflux for 30 hours. The solvent was evaporated in vacuo, the residue stirred with diethyl ether, the solid collected and recrystallized twice from isopropanol to give 4-amino-6,7-dimethoxy-2-[4-(2-methoxy-n-propoxy)piperidino]quinazoline hydrochloride (2.8 g.), m.p. 239°-241° C.

reactant | 4-Amino-2-chloro-6,7-dimethoxyquinazoline | 3.6 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 4-(2-methoxy-n-propoxy)piperidine | 3.0 g | COC(COC1CCNCC1)C | C9H19NO2
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-amino-6,7-dimethoxy-2-[4-(2-methoxy-n-propoxy)piperidino]quinazoline hydrochloride | 2.8 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)OCC(C)OC | InChI=1S/C19H28N4O4.ClH/c1-12(24-2)11-27-13-5-7-23(8-6-13)19-21-15-10-17(26-4)16(25-3)9-14(15)18(20)22-19;/h9-10,12-13H,5-8,11H2,1-4H3,(H2,20,21,22);1H
